US07666879B2
B. 4-Cyclopropyl-pyridin-2-ylamine
Reflux 4-cyclopropyl-pyridine (600 mg, 5 mmol), N,N-dimethylaniline (1.4 mL, 11 mmol) and NaNH2 (50% in toluene, 468 mg, 6 mmol) at 150-160° C. under nitrogen in toluene for overnight. Cool the mixture and dilute with water and ethyl acetate. Extract the organic layer by minimal amount of water. Dry the organic layer (combination of anhydrous MgSO4, Na2SO4 and K2CO3), concentrate and purify by silica gel column chromatography to obtain the title compound in 12% yield. LCMS (ES), m/z 135 (M+1).

reactant | 4-cyclopropyl-pyridine | 5 mmol, 600 mg | C1(CC1)C1=CC=NC=C1 | C8H9N
reactant | N,N-dimethylaniline | 11 mmol, 1.4 mL | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Cyclopropyl-pyridin-2-ylamine | 12% yield | C1(CC1)C1=CC(=NC=C1)N | C8H10N2
